OPA_Loop
*SPICE Netlist generated by Advanced Sim server on 2017/4/15 23:30:27

*Schematic Netlist:
C2 0 NetC2_2 1nF
C4 0 NetC4_2 1nF
L1 OUT2 IN 10TH
R1 0 NetR1_2 10K
R2 NetR1_2 NetR2_2 100
R3 NetR2_2 NetC2_2 900
R4 NetC2_2 OUT1 9K
R5 0 NetR5_2 10K
R6 NetR5_2 NetR6_2 100
R7 NetR6_2 NetC4_2 900
R8 NetC4_2 IN 9K
XU1A IN NetR1_2 VCC VEE OUT1 TL082
XU1B NetU1_5 NetU1_6 VCC VEE NetU1_7 TL082
XU2A 0 NetR5_2 VCC VEE OUT2 TL082
XU2B NetU2_5 NetU2_6 VCC VEE NetU2_7 TL082
V1 VCC 0 15V
V2 0 IN DC 0 SIN(0 1 1K 0 0 0) AC 1 0
V3 0 VEE 15V

.SAVE 0 IN NetC2_2 NetC4_2 NetR1_2 NetR2_2 NetR5_2 NetR6_2 NetU1_5 NetU1_6
.SAVE NetU1_7 NetU2_5 NetU2_6 NetU2_7 OUT1 OUT2 VCC VEE V1#branch V2#branch V3#branch
.SAVE @V1[z] @V2[z] @V3[z] @C2[i] @C4[i] @L1[i] @R1[i] @R2[i] @R3[i] @R4[i] @R5[i]
.SAVE @R6[i] @R7[i] @R8[i] @C2[p] @C4[p] @L1[p] @R1[p] @R2[p] @R3[p] @R4[p] @R5[p]
.SAVE @R6[p] @R7[p] @R8[p] @V1[p] @V2[p] @V3[p]

*PLOT AC -1 1 A=IN
*PLOT TRAN -1 1 A=IN
*PLOT OP -1 1 A=IN

*Selected Circuit Analyses:
.AC DEC 10000 1000 1E8
.TRAN 1E-6 0.005 0 1E-6
.OP

*Models and Subcircuits:
.SUBCKT TL082 1   2   3   4   5
C1   11 12 3.498E-12
C2    6  7 15E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
BGND 99  0 V=V(3)*.5 + V(4)*.5
BB    7 99 I=I(VB)*4.715E6 - I(VC)*5E6 + I(VE)*5E6 + I(VLP)*5E6 - I(VLN)*5E6
GA    6  0 11 12 282.8E-6
GCM   0  6 10 99 8.942E-9
ISS   3 10 DC 195E-6
HLIM 90  0 VLIM 1K
J1   11  2 10 JX
J2   12  1 10 JX
R2    6  9 100E3
RD1   4 11 3.536E3
RD2   4 12 3.536E3
RO1   8  5 150
RO2   7 99 150
RP    3  4 2.143E3
RSS  10 99 1.026E6
VB    9  0 DC 0
VC    3 53 DC 2.2
VE   54  4 DC 2.2
VLIM  7  8 DC 0
VLP  91  0 DC 25
VLN   0 92 DC 25
.MODEL DX D(IS=800E-18)
.MODEL JX PJF(IS=15E-12 BETA=270.1E-6 VTO=-1)
.ENDS TL082

.END
